US07625902B2
In analogy to example 2, (R)-2-benzenesulfonylamino-3-hydroxy-propionic acid was coupled with 1-(2,5-dimethylphenyl)-piperazine to give N-{(R)-2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide.

reactant | (R)-2-benzenesulfonylamino-3-hydroxy-propionic acid | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](C(=O)O)CO | C9H11NO5S
reactant | 1-(2,5-dimethylphenyl)-piperazine | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
product | N-{(R)-2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide | CC1=C(C=C(C=C1)C)N1CCN(CC1)C([C@@H](CO)NS(=O)(=O)C1=CC=CC=C1)=O | C21H27N3O4S
